US04438128
1-Phenoxy-3-[2-(2-aminoquinazolin-4-ylamino)ethylamino]-propan-2-ol
3.32 g. Phenyl glycidyl ether and 9.0 g. 2-amino-4-(2-aminoethylamino)-quinazoline are stirred for 24 hours at 50° C. in 100 ml. isopropyl alcohol. The reaction mixture is then evaporated and the residue purified chromatographically in the manner described in Example 38. There are obtained 2.0 g. (26% of theory) of the desired product in the form of a colorless oil.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2-amino-4-(2-aminoethylamino)-quinazoline | NC1=NC2=CC=CC=C2C(=N1)NCCN | C10H13N5
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-Phenoxy-3-[2-(2-aminoquinazolin-4-ylamino)ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=NC(=NC2=CC=CC=C12)N)O | C19H23N5O2
